* Z:\mnt\design.r\spice\examples\1461-4.096.asc
V1 N001 0 6.6
I1 N002 0 PULSE(0 10m 1.5m 10n 10n 2m 200m)
C1 N002 0 2µ
XU1 0 N001 N001 N002 LT1461-4.096
.tran 7m
.lib LT1461.lib
.backanno
.end
